US06063573
16-Bromohexadecan-1-ol.
Under inert atmosphere 10 ml of BH3. THF complex (1.0 M THF solution) were added to 30 ml THF solution of 2.15 gr (6.41 mmole) of 16-bromohexadecanoic acid at -20° C. Reaction mixture was stirred at this temperature for 2 hrs and then additional 1 hr at RT. After that time the resulted mixture was poured, with stirring, into a vessel containing 200 ml of ice/saturated sodium bicarbonate aqueous solution. Organic compounds were extracted with 3×200 ml of ether. The ether fractions were combined and dried over sodium sulfate. After removal of ether material was dissolved in minimum amount of dicloromethane and purified by silica gel chromatography (100% dicloromethane as eluent). 1.92 gr (93% yield) of the desired product were obtained.

reactant | 16-bromohexadecanoic acid | 6.41 mmole, 2.15 gr | BrCCCCCCCCCCCCCCCC(=O)O | C16H31BrO2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 1.0 M | C1CCOC1 | C4H8O
product | 16-Bromohexadecan-1-ol | 1.92 gr, 93% yield | BrCCCCCCCCCCCCCCCCO | C16H33BrO
